US06150526
A solution of 280 mg (0.63 mmol) of tert-butyl (3RS,4RS)-3-(2,3-dihydro-benzo[1,4]dioxin-6-ylmethoxy)-4-(4-fluorophenyl)-piperidine-1-carboxylate in 5 ml of dry methylene chloride was treated with 808 mg (1.89 mmol) of anhydrous zinc bromide and the mixture was stirred at room temperature for 5 hours. Subsequently, the solvent was distilled off under reduced pressure, the residue was taken up in 10 ml of methanol, treated with 2 ml of 2N sodium hydroxide solution and the solid was separated. The filtrate was evaporated under reduced pressure and the residue was partitioned between methylene chloride and water. The organic phase was separated and evaporated under reduced pressure. There were obtained 220 mg (98% of theory) of (3RS,4RS)-3-(2,3-dihydrobenzo[1,4]dioxin-6-yl-methoxy)-4-(4-fluorophenyl)-piperidine as a yellowish solid; MS: 344 (M+H)+.

reactant | tert-butyl (3RS,4RS)-3-(2,3-dihydro-benzo[1,4]dioxin-6-ylmethoxy)-4-(4-fluorophenyl)-piperidine-1-carboxylate | 0.63 mmol, 280 mg | O1CCOC2=C1C=CC(=C2)COC2CN(CCC2C2=CC=C(C=C2)F)C(=O)OC(C)(C)C | C25H30FNO5
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
catalyst | zinc bromide | 1.89 mmol, 808 mg | [Br-].[Zn+2].[Br-]
product | (3RS,4RS)-3-(2,3-dihydrobenzo[1,4]dioxin-6-yl-methoxy)-4-(4-fluorophenyl)-piperidine | 220 mg, 98% | O1CCOC2=C1C=CC(=C2)COC2CNCCC2C2=CC=C(C=C2)F | C20H22FNO3
